US09062004B2
A solution of 5-dimethylamino-3-oxo-2-(3,3,5,5-tetramethyl-cyclohexyl)-2,3-dihydro-pyridazine-4-carbaldehyde (1.19 g, 3.903 mmol) in EtOH (30 mL) was treated with H2NNH2.H2O (1.2 mL, 39.03 mmol). After stirring at reflux for 20 h, the volatiles were removed in vacuo and the solid residue was extracted with EtOAc. The organics were then washed with brine, dried (Na2SO4). After evaporation of volatiles, the residue was purified by flash chromatography (50 g (solute SiO2 cartridge, continuous gradient 100% hexanes→hexanes/EtOAc, 1:1) to provide 5-(3,3,5,5-tetramethyl-cyclohexyl)-1,5-dihydro-pyrazolo[3,4-d]pyridazin-4-one (495.3 mg, 46%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.36 (1H, s), 8.31 (1H, s), 5.45 (1H, app heptet, J=4.6 Hz), 1.71-1.57 (4H, m), 1.40-1.22 (2H, m), 1.19 (6H, s), 1.00 (6H, s).

reactant | 5-dimethylamino-3-oxo-2-(3,3,5,5-tetramethyl-cyclohexyl)-2,3-dihydro-pyridazine-4-carbaldehyde | 3.903 mmol, 1.19 g | CN(C1=C(C(N(N=C1)C1CC(CC(C1)(C)C)(C)C)=O)C=O)C | C17H27N3O2
reactant | H2NNH2.H2O | 39.03 mmol, 1.2 mL | NN.O
solvent | EtOH | 30 mL | CCO | C2H6O
product | 5-(3,3,5,5-tetramethyl-cyclohexyl)-1,5-dihydro-pyrazolo[3,4-d]pyridazin-4-one | 495.3 mg, 46% | CC1(CC(CC(C1)(C)C)N1N=CC2=C(C1=O)C=NN2)C | C15H22N4O
